US07629362B2
To a solution (400 ml) of 14.1 g (73.0 mmol) of 3,6-dichloro-2-pyridinecarboxylic acid in chloroform were successively added 9.00 g (89.9 mmol) of aminothiazole, 12.1 g (89.7 mmol) of N-hydroxybenzotriazole hydrate and 19.0 g (99.2 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride followed by stirring at room temperature for 24 hours. After the reaction solution was concentrated, ethyl acetate was added to the residue followed by washing with 0.2N aqueous solution of hydrochloric acid, water and saturated aqueous solution of sodium hydrogen carbonate. After drying and concentrating, the resulting residue was crystallized from a mixed solvent of hexane and ethyl acetate (5:1) to give 12.8 g (yield: 64%) of 3,6-dichloro-N-(thiazole-2-yl)-2-pyridine carboxamide as a white solid.

reactant | 3,6-dichloro-2-pyridinecarboxylic acid | 73.0 mmol, 14.1 g | ClC=1C(=NC(=CC1)Cl)C(=O)O | C6H3Cl2NO2
reactant | aminothiazole | 89.9 mmol, 9.00 g | C1=CSC(=N1)N | C3H4N2S
reactant | N-hydroxybenzotriazole hydrate | 89.7 mmol, 12.1 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 99.2 mmol, 19.0 g | Cl.CN(CCCN=C=NCC)C
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3,6-dichloro-N-(thiazole-2-yl)-2-pyridine carboxamide | 12.8 g, yield: 64% | ClC=1C(=NC(=CC1)Cl)C(=O)NC=1SC=CN1 | C9H5Cl2N3OS
